US06451810B1
According to the general method of Example 50, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and fusaric acid were combined to provide N2-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-5-butyl-2-pyridinecarboxamide as a tan solid, m.p. 54.9-55.2° C. 1H NMR (300 MHz, DMSO-d6) δ8.81 (t, J=6.1 Hz, 1H), 8.44 (m, 1H), 7.98 (d, J=7.3 Hz, 1H), 7.94 (dd, J=8.0, 0.7 Hz, 1H), 7.80 (dd, J=8.0, 2.2 Hz, 1H), 7.60 (dd, J=8.3, 1.2 Hz, 1H), 7.39-7.34 (m, 1H), 7.16-7.10 (m, 1H), 6.52 (broad s, 2H), 4.55 (t, J=6.9 Hz, 2H), 3.79 (t, J=6.7 Hz, 2H), 3.23 (s, 3H), 3.18 (t, J=6.7 Hz, 2H), 2.67 (t, J=7.6 Hz, 2H), 1.83-1.72 (m, 4H), 1.63-1.53 (m, 2H), 1.34-1.24 (m, 2H), 0.90 (t, J=7.3 Hz, 3H); MS (EI) m/e 474.2750 (474.2743 calcd for C27H34N6O2).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | fusaric acid | CCCCC=1C=CC(=NC1)C(=O)O | C10H13NO2
product | N2-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-5-butyl-2-pyridinecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2=NC=C(C=C2)CCCC)CCOC | C27H34N6O2
